US08975267B2
methyl 1-[1-(tert-butoxycarbonyl)piperidin-4-yl]-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylate
To a mixture of methyl 7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylate (100 mg 0.52 mmol), tert-butyl-4-hydroxypiperidine-1-carboxylate (105 mg, 0.52 mmol), and triphenylphosphine (136 mg, 0.52 mmol), in anhydrous THF (5 mL) at room temperature, was added di tert-butyl-diazadicarboxylate (DTAD) (120 mg, 0.52 mmol). The mixture was stirred at room temperature for 8 h. HPLC/MS suggested 40% conversion and 60% SM remained. Reagents were added, triphenylphosphine (136 mg, 0.52 mmol) and DTAD (120 mg, 0.52 mmol), the mixture was stirred for 4 hours. HPLC/MS showed 80% conversion and 20% SM remained. Reagents were re-added TPP (136 mg, 0.52 mmol) and DTAD (120 mg, 0.526 mmol) and the solution was stirred for additional 4 hours. The volatiles were removed in vacuo, the crude solid was purified by flash chromatography on silica gel (hexane/EtOAc 7/3) to afford 140 mg (70% yield) of the title compound as a white solid.

reactant | methyl 7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylate | 0.52 mmol, 100 mg | O=C1CCCC=2C(=CNC12)C(=O)OC | C10H11NO3
reactant | tert-butyl-4-hydroxypiperidine-1-carboxylate | 0.52 mmol, 105 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | triphenylphosphine | 0.52 mmol, 136 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triphenylphosphine | 0.52 mmol, 136 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | methyl 1-[1-(tert-butoxycarbonyl)piperidin-4-yl]-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylate | 140 mg, 70% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C=C(C=2CCCC(C12)=O)C(=O)OC | C20H28N2O5
